US06930214B2
Into an autoclave, 1.05 g of Raney Nickel catalyst (10 wt %) and 100 ml of isopropanol were introduced, and 10.0 g of 2,5-bis(trifluoromethyl)nitrobenzene was added thereto in small amounts. Hydrogen gas was blown until 5 kg/cm2 with stirring, and the temperature was increased to 70° C. Reaction was carried out at from 70 to 90° C. for 8 hours. After the temperature was recovered to room temperature, hydrogen gas was evacuated, and the Raney Nickel was subjected to filtration and washed with isopropanol. The solvent was concentrated to obtain 2,5-bis(trifluoromethyl)aniline (6.42 g, yield 73%, purity by GC 99.4%). As a result of analysis by GC-Mass, 1H-NMR and 19F-NMR, the product was confirmed to be 2,5-bis(trifluoromethyl)aniline.

reactant | 2,5-bis(trifluoromethyl)nitrobenzene | 10.0 g | FC(C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])(F)F | C8H3F6NO2
reactant | Hydrogen | [H][H] | H2
catalyst | Raney Nickel | 1.05 g | [Ni] | Ni
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 2,5-bis(trifluoromethyl)aniline | 6.42 g, yield 73% | FC(C1=C(N)C=C(C=C1)C(F)(F)F)(F)F | C8H5F6N
